US04252739
Example 3 was repeated except the organic solvent was omitted and the mol ratio of trans 1,4-dichlorobutene-2 to di-n-butyl malonate was 2:1. Di-n-butyl 2-vinylcyclopropane-1,1-dicarboxylate was obtained in 69% yield.

reactant | trans 1,4-dichlorobutene-2 | C(/C=C/CCl)Cl | C4H6Cl2
reactant | di-n-butyl malonate | C(CC(=O)OCCCC)(=O)OCCCC | C11H20O4
product | Di-n-butyl 2-vinylcyclopropane-1,1-dicarboxylate | 69% yield | C(=C)C1C(C1)(C(=O)OCCCC)C(=O)OCCCC | C15H24O4
